US05594112
(1) Synthesis of 2-methyl-6-nitrophenol
To an ice-cooled solution of 2-methylphenol (10.8 g, 0.1-mmol) in acetic acid, fuming nitric acid (6.3 g) was slowly added with stirring to start reaction. The reaction mixture was stirred at a temperature of 20° C. or below for 1 h and thereafter poured into ice water. The reaction product was extracted with ethyl acetate and the extracted layer was washed with water, saturated sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride in the order written. Thereafter, the washed layer was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography with a benzene-ethyl acetate mixture used as eluant, thereby giving the desired compound, 2-methyl-6-nitrophenol, in an amount of 1.3 g.

reactant | 2-methylphenol | 0.1-mmol, 10.8 g | CC1=C(C=CC=C1)O | C7H8O
reactant | nitric acid | 6.3 g | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-methyl-6-nitrophenol | CC1=C(C(=CC=C1)[N+](=O)[O-])O | C7H7NO3
